US03933828
A solution of 3-phenyl-4,9-dihydronaphtho-[2,3-d]isoxazole-4,9-dione (m.p. 133°-135°C, 500 mg) in methanol (400 ml) is irradiated by light of a low-pressure mercury lamp (35 W) at room temperature (20°-30°C) for 3 hours in argon atmosphere. After removal of methanol, the residue is extracted with chloroform. The extract is chromatographed on alumina. The chloroform insoluble residue is dissolved in a mixture of chloroform and methanol, and this solution is also chromatograped on alumina. The fractions containing the objective compound are combined, evaporated, and the residue is recrystallized from 70 % acetic acid to give 2-benzimidoyl-3-hydroxy-1,4-naphthoquinone (315 mg) as pale yellow scales, m.p. 258°14 259°C.

reactant | 3-phenyl-4,9-dihydronaphtho-[2,3-d]isoxazole-4,9-dione | 500 mg | C1(=CC=CC=C1)C1=NOC2=C1C(C=1C=CC=CC1C2=O)=O | C17H9NO3
solvent | methanol | 400 ml | CO | CH4O
product | 2-benzimidoyl-3-hydroxy-1,4-naphthoquinone | 315 mg | C(C1=CC=CC=C1)(=N)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C17H11NO3
